US07994164B2
Rac trans-4-Benzylamino-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester
Add benzaldehyde (0.24 mol, 26.3 g) to a solution of racemic trans-4-amino-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (0.24 mol, 53.7 g), and acetic acid (92 mL) in ethanol (400 mL) and stir the reaction mixture at room temperature for 30 min. Add sodium cyanoborohydride (0.49 mol, 31.2 g) and stir the reaction mixture for 3 h. Quench the reaction mixture with sodium bicarbonate solution and extract with dichloromethane. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate. Dissolve the residue in a minimum amount of dichloromethane and add 0.1 N aqueous hydrochloric acid to maintain the pH between 4-5. Discard the organic layer. Wash the acidic aqueous layer three times with dichloromethane and discard the organic layer. Adjust the pH of the aqueous layer between 10-12 and extract with dichloromethane. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate to obtain the title compound (35.7 g, 46%) as a light yellow oil. 1H NMR (400 MHz, CDCl3) δ 1.35-1.40 (m, 2H), 1.45 (s, 9H), 2.05 (br s 1H), 2.43 (t, 1H), 2.57 (t, 1H), 2.69 (br s, 1H), 3.27 (br s, 1H), 3.70 (d, 1H), 3.94 (d, 1H), 4.15 (br s, 1H), 4.26 (d, 1H), 7.23-7.29 (m, 1H), 7.30-7.32 (m, 2H), 7.33-7.36 (m, 2H).

reactant | benzaldehyde | 0.24 mol, 26.3 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | racemic trans-4-amino-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 0.24 mol, 53.7 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)N)O | C10H20N2O3
reactant | acetic acid | 92 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.49 mol, 31.2 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | Rac trans-4-Benzylamino-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 35.7 g, 46% | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)NCC1=CC=CC=C1)O | C17H26N2O3
